US07989629B2
1,1-Dimethylethyl 4-(4-{[3-(3,3-dimethyl-1-piperidinyl)propyl]oxy}phenyl)-4-hydroxy-1-piperidinecarboxylate
A solution of 1-{3-[(4-iodophenyl)oxy]propyl}-3,3-dimethylpiperidine (25 g) in THF (125 ml) is stirred for about 15 min, then cooled to 0-5° C. Isopropyl magnesium chloride solution (70.5 ml, 1.9M) is added at 0-5° C. over about 40 min, then the mixture is stirred at 0-5° C. for 2-3 h. The mixture is then cooled to −78 to −80° C. and a precooled solution (−20 to −30° C.) of N-Boc-piperidinone (16 g) in THF (125 ml) is added over about 1-2 h and the reaction mixture is stirred for about 1.5 h at −78 to −80° C. The reaction mixture is allowed to warm to 25-30° C., then stirred for 23-24 h. Saturated ammonium chloride solution (375 ml) is added at 25-30° C., followed by ethyl acetate (500 ml) and the mixture stirred for about 50 min. The aqueous layer is extracted with ethyl acetate (250 ml). The combined organic layers are washed with water (375 ml), dried over sodium sulfate and concentrated under reduced pressure to give the crude title compound (30.3 g).

reactant | 1-{3-[(4-iodophenyl)oxy]propyl}-3,3-dimethylpiperidine | 25 g | IC1=CC=C(C=C1)OCCCN1CC(CCC1)(C)C | C16H24INO
reactant | Isopropyl magnesium chloride | 1.9M, 70.5 ml | C(C)(C)[Mg]Cl
reactant | N-Boc-piperidinone | 16 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | ammonium chloride | 375 ml | [Cl-].[NH4+]
reactant | THF | 125 ml | C1CCOC1 | C4H8O
reactant | THF | 125 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl 4-(4-{[3-(3,3-dimethyl-1-piperidinyl)propyl]oxy}phenyl)-4-hydroxy-1-piperidinecarboxylate | 30.3 g | CC1(CN(CCC1)CCCOC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O)C | C26H42N2O4
